US05973038
A black indanthrone compound was prepared by adding 114.4 parts 2-amino-2,4-dibromoanthraquinone and 57.4 parts 4-phenoxyaniline in 875 parts methyl benzoate to 58.8 parts potassium acetate and 3 parts cupric acetate. This mixture was then heated with stirring to 135-140 degrees C. for 7 hours at which time another 220 parts methyl benzoate was added. Stirring at 135-140 degrees C. continued for an additional 6 hours. The mixture was cooled to room temperature and 58.8 parts potassium acetate was added. The mixture was then heated to reflux using a Dean-Stark trap to remove low boiling by products which permitted the temperature in the flask to remain at 196-198 degrees C. The mixture was stirred at reflux for 1.5 hours and cooled with stirring. The product was isolated as in Example 2 and gave a similar yield of a black dye composition consisting mainly of 8,17-bis(4-phenoxyphenylamino)indanthrone.

reactant | 2-amino-2,4-dibromoanthraquinone | NC1(CC=2C(C3=CC=CC=C3C(C2C(=C1)Br)=O)=O)Br | C14H9Br2NO2
reactant | 4-phenoxyaniline | O(C1=CC=CC=C1)C1=CC=C(N)C=C1 | C12H11NO
reactant | methyl benzoate | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | potassium acetate | C(C)(=O)[O-].[K+]
product | indanthrone | C1=CC=C2C(=C1)C(=O)C3=C(C2=O)C4=C(C=C3)NC5=C(N4)C=CC6=C5C(=O)C7=CC=CC=C7C6=O | C28H14N2O4
